US09108946B2
3-(3-Chloro-1H-pyrazol-1-yl)pyridine (5b)
A 100 mL, 3-neck round bottom flask was charged with 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine (3.0 g) and N,N-dimethylformamide (15 mL). potassium persulfate (6.70 g, 24.8 mmol) was added and the reaction was heated to 80° C. for 3 hours. An exotherm at about 110° C. was observed. It was allowed to cool to 80° C. and stirred at 80° C. for 3 hours, at which point a sample was diluted with water and basified with 50 wt % sodium hydroxide solution and extracted with ethyl acetate. The organic layer was analyzed by thin layer chromatography [Eluent: ethyl acetate], which showed that the desired product was formed as the major product, along with a trace of starting material and some minor impurities. The reaction mixture was cooled to 20° C. and diluted with water (50 mL). It was basified with 50% sodium hydroxide and extracted with ethyl acetate (4×30 mL). The organic layers were combined, concentrated to dryness, and purified by flash column chromatography using 30% ethyl acetate/hexanes as eluent. The pure fractions were concentrated to dryness to afford a white solid (1.60 g, 54%): mp 104-106° C.; 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=27 Hz, 1H), 8.57 (dd, J=4.8, 1.4 Hz, 1H), 8.02 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.91 (d, J=2.6 Hz, 1H), 7.47-7.34 (M, 1H), 6.45 (d, J=2.6 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 148.01, 142.72, 140.12, 135.99, 128.64, 126.41, 124.01, 108.08; EIMS m/z 179 ([M]+).

reactant | 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 3.0 g | ClC1=NN(CC1)C=1C=NC=CC1 | C8H8ClN3
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | potassium persulfate | 24.8 mmol, 6.70 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 3-(3-Chloro-1H-pyrazol-1-yl)pyridine | 1.60 g, 54% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
